US06316444B1
Step C: 2-Hydroxymethyl-4-benzyloxycarbonyl-morpholine
To a solution of 2.20 g of 2-hydroxymethyl-4-fluorenyloxycarbonyl-morpholine in 25 mL of CH2Cl2 was added 1.29 g of piperidine. The mixture was stirred at room temperature for 2 days. Diisopropylethylamine (7.15 g) and 6.30 g of benzyl chloroformate were added and the mixture was stirred overnight at room temperature, then diluted with 100 mL of EtOAc and washed with 50 mL each of 1N HCl, saturated NaHCO3, and brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with a gradient system of 20:1 CH2Cl2-acetone to 9:1 CH2Cl2-acetone, to yield 638 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ7.30-7.40 (m, 5H), 5.15 (ABq, J=12.4 Hz, 2H), 3.93 (br s, 3H), 3.68 (br s, 1H), 3.47-3.63 (m, 3H), 3.02 (br s, 1H), 2.85 (br s, 1H), 1.90 (br s, 0.6H). IR (neat) 3427, 2862, 1693, 1432, 1354, 1236, 1129 cm−1.

reactant | 2-hydroxymethyl-4-fluorenyloxycarbonyl-morpholine | 2.20 g | OCC1CN(CCO1)C(=O)OC1=CC=CC=2C3=CC=CC=C3CC12 | C19H19NO4
reactant | piperidine | 1.29 g | N1CCCCC1 | C5H11N
reactant | Diisopropylethylamine | 7.15 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 6.30 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-Hydroxymethyl-4-benzyloxycarbonyl-morpholine | 638 mg | OCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C13H17NO4
